US07288544B2
Synthesis of 4-(3,4-dichlorophenyl)-2,6-dimethyl-N-(3,3-diphenylpropyl)-5-pyrimidinecarboxamide
120 mg (0.265 mmol) of 2-acetyl-3-(3,4-dichlorophenyl)-N-(3,3-diphenylpropyl) acrylamide was dissolved in 5 ml of DMF. 37.6 mg (0.398 mmol) of acetamidine hydrochloride and 26.1 mg of (0.318 mmol) of sodium acetate were added thereto and stirred at 100° C. overnight. After the solvent was evaporated under reduced pressure, the reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained residue was dissolved in 10 ml of toluene. 120 mg (0.530 mmol) of DDQ (2,3-dichloro-5,6-dicyano-1,4-benzoquinone; hereinafter abbreviated as DDQ) was added thereto and stirred at 100° C. overnight. After filtration of insoluble matters and evaporation of the solvent under reduced pressure, the filtrate was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the title compound.

reactant | 2-acetyl-3-(3,4-dichlorophenyl)-N-(3,3-diphenylpropyl) acrylamide | 0.265 mmol, 120 mg | C(C)(=O)C(C(=O)NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=CC1=CC(=C(C=C1)Cl)Cl | C26H23Cl2NO2
reactant | acetamidine hydrochloride | 0.398 mmol, 37.6 mg | Cl.C(C)(=N)N
reactant | sodium acetate | 0.318 mmol, 26.1 mg | C(C)(=O)[O-].[Na+]
reactant | DDQ | 0.530 mmol, 120 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(3,4-dichlorophenyl)-2,6-dimethyl-N-(3,3-diphenylpropyl)-5-pyrimidinecarboxamide | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1C(=O)NCCC(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C28H25Cl2N3O
